US09034866B2
Synthesis of ethyl 8-fluoro-9-iodo-3-methyl-3,4,5,6-tetrahydro-4,6methanobenzo[3,4]cyclohepta[1,2-d]imidazole-2-carboxylate
To a pressure tube containing a solution of ethyl 8-fluoro-9-iodo-3,4,5,6-tetrahydro-4,6-methanobenzo[3,4]cyclohepta[1,2-d]imidazole-2-carboxylate (400 mg at 69% purity) in N,N-dimethylformamide (0.5 mL) was introduced potassium carbonate (134 mg, 0.97 mmol) and methyl iodide (207 mg, 1.46 mol). The pressure tube was closed under an atmosphere of nitrogen and the reaction mixture warmed to 40° C. for 2.5 hr and room temperature for 12 hr. After concentrating the reaction mixture in vacuo, the residue was suspended in ethyl acetate (30 mL) and washed with saturated aqueous sodium bicarbonate (2×10 m), water (2×10 ml) and brine (10 mL). The organic extract was dried over sodium sulfate, filtered and evaporated in vacuo to furnish the crude title compound (389 mg of 77% purity LCMS-UV215) as an orange-brown sticky solid which was used for the next step without further purification. For characterisation purposes, some of the crude product was taken and suspended in ethyl acetate by sonnication and the product, an off-white solid, collected by filtration: 1H NMR (500 MHz, CDCl3) δ 1.48 (t, J=7.09 Hz, 3H), 1.69-1.74 (m, 2H), 2.92-3.00 (m, 2H), 3.50 (td, J=7.57, 3.78 Hz, 1H), 3.56 (td, J=8.35, 3.78 Hz, 1H), 3.94 (s, 3H), 4.46 (q, J=7.15 Hz, 2H), 6.79 (d, J=8.83 Hz, 1H), 8.83 (d, J=6.62 Hz, 1H); M+1=427.

reactant | ethyl 8-fluoro-9-iodo-3,4,5,6-tetrahydro-4,6-methanobenzo[3,4]cyclohepta[1,2-d]imidazole-2-carboxylate | 400 mg | FC1=CC2=C(C3=C(NC(=N3)C(=O)OCC)C3CC2C3)C=C1I | C16H14FIN2O2
reactant | potassium carbonate | 0.97 mmol, 134 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 1.46 mol, 207 mg | CI | CH3I
solvent | N,N-dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
product | ethyl 8-fluoro-9-iodo-3-methyl-3,4,5,6-tetrahydro-4,6methanobenzo[3,4]cyclohepta[1,2-d]imidazole-2-carboxylate | 389 mg, 77% | FC1=CC2=C(C3=C(N(C(=N3)C(=O)OCC)C)C3CC2C3)C=C1I | C17H16FIN2O2
